datasets/10k_Mayr_OG.csv
SMILES Labelled
"C=C(C)C[C:11](C)=[CH2:10].O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>C=C(C)C[C+:11](C)[CH2:10][CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1.[N:10]1=[CH:11][N-:12][C:61]([CH:72]=[O:73])=[CH:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[CH:11]=[N:12][C:61]([CH:72]=[O:73])=[CH:62]2)[N:21](C)C)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21"
"C1=CC2=C(C=C1)[S:71](=[O:72])(=[O:92])[CH-:10][S:61]2(=[O:62])=[O:82].FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].FC(F)[S:20][CH:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92] 10=20;20,21=21,22;22,23=23"
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CC2=CC=CC=C21>>C[Si:63](C)(C)[O+:12]=[C:11]1C2=CC=CC=C2C[CH:10]1[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](Br)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.CC(C)(C)[Si](C)(C)O[N:12](O[Si](C)(C)C(C)(C)C)[C:11](C)=[CH2:10]>>CC(C)(C)[Si](C)(C)O[N+:12](O[Si](C)(C)C(C)(C)C)=[C:11](C)[CH2:10][CH:20]([CH:21]=[CH:22][N:23]1CCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.CC(C)(C)C[Si:11](C)(C)[H:10]>>C1=CC=C(C[N:23](CC2=CC=CC=C2)[CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.CC(C)(C)C[Si+:11](C)C 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25].[CH-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([CH:10]([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CCCC[Sn:11](CCCC)(CCCC)[H:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CCCC[Sn+:11](CCCC)CCCC.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10,11=10,20;20,21=21,22;22,23=23"
"COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2.[N-:10]1[CH:61]=[N:62][C:72]([CH:73]=[O:74])=[CH:71]1>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([N:10]1[CH:61]=[N:62][C:72]([CH:73]=[O:74])=[CH:71]1)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10=20;20,21=21,22;22,23=23"
"CCC[Sn:63](CCC)(CCC)[CH2:62][CH:11](C)[H:10].CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1>>CCC[Sn:63](CCC)(CCC)[CH2:62][CH+:11]C.CN(C)C1=CC=C(C2C([CH:20](C3=CC=C(N(C)C)C=C3)[H:10])[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10,11=10,20;20,21=21"
"COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1.OCC[NH:10]CCO>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([NH+:10](CCO)CCO)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=C([N+](=O)[O-])C=C2)[N:62](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:75](C2=CC=CC=C2)=[N:73]1.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[Cl:20])[N:62](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:75](C2=CC=CC=C2)=[N:73]1.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CCC[C:20](=[O:21])CC1.CN(C)C1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1>>CN(C)C1=CC=C(C[C:10]2([C:20]3([O-:21])CCCCCC3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1 10=20;20,21=21"
"CCCCCC[Si:11](CCCCCC)(CCCCCC)[H:10].C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1>>CCCCCC[Si+:11](CCCCCC)CCCCCC.C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1.[H:10][F:20] 10,11=10,20;20,21=21"
"CC[Si:63](CC)(CC)[CH2:62][CH:11]=[CH2:10].CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC[Si:63](CC)(CC)[CH2:62][CH+:11][CH2:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
